US07067517B2
Methyl-phenyl-carbamic acid 4-(3,3-dimethyl-butyrylamino)-phenyl ester
The title compound (262 mg, 77% yield) was prepared from N-(4-hydroxyphenyl)-3,3-dimethyl-butyramide (275 mg, 1.00 mmol) and 1-methyl-3-(methyl-phenyl-carbamoyl)-3H-imidazol-1-ium iodide (343 mg, 1.00 mmol). HPLC-MS m/z=341 (M+1); Rt=4.15 min.

reactant | N-(4-hydroxyphenyl)-3,3-dimethyl-butyramide | 1.00 mmol, 275 mg | OC1=CC=C(C=C1)NC(CC(C)(C)C)=O | C12H17NO2
reactant | 1-methyl-3-(methyl-phenyl-carbamoyl)-3H-imidazol-1-ium iodide | 1.00 mmol, 343 mg | [I-].C[N+]1=CN(C=C1)C(N(C1=CC=CC=C1)C)=O
product | Methyl-phenyl-carbamic acid 4-(3,3-dimethyl-butyrylamino)-phenyl ester | 262 mg, 77% yield | CC(CC(=O)NC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)(C)C | C20H24N2O3
